US06613942B1
Preparation of 3-Allyl-4-(4-isopropylbenzyloxy)-5-methoxybenzaldehyde
The crude 3-allyl-4-hydroxy-5-methoxy-benzaldehyde was taken up in acetone and treated with 4-isopropylbenzyl chloride in the presence of potassium carbonate to give the desired product.

reactant | 3-allyl-4-hydroxy-5-methoxy-benzaldehyde | C(C=C)C=1C=C(C=O)C=C(C1O)OC | C11H12O3
reactant | 4-isopropylbenzyl chloride | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 3-Allyl-4-(4-isopropylbenzyloxy)-5-methoxybenzaldehyde | C(C=C)C=1C=C(C=O)C=C(C1OCC1=CC=C(C=C1)C(C)C)OC | C21H24O3
